US06777417B2
N,N-Dimethyl-3-(4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionamide (8 g, 0.034 mol) was suspended in 125 ml of tetrahydrofuran and lithium aluminum hydride (5.2 g, 0.136 mol) was slowly added. The mixture was refluxed over night, cooled in ice, and 5 ml of water and then 5 ml of 15% sodium hydroxide solution was slowly added. The mixture was stirred for 45 minutes. Water (15 ml) and sodium sulfate were added and the mixture filtered to remove solids. The solids were washed with ethyl acetate and the filtrate was concentrated to give dimethyl-[3-(4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-amine (6.3 g, 90% yield).

reactant | N,N-Dimethyl-3-(4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionamide | 0.034 mol, 8 g | CN(C(CCC1=CNC=2CCCC(C12)=O)=O)C | C13H18N2O2
reactant | lithium aluminum hydride | 0.136 mol, 5.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | Water | 15 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | dimethyl-[3-(4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-amine | 6.3 g, 90% yield | CN(CCCC1=CNC=2CCCCC12)C | C13H22N2
